US09024021B2
A mixture of 6-[(quinolin-3-yl)ethynyl]pyridine-2-carboxylic acid (0.05 g, 0.2 mmol), N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride (0.04 g, 0.2 mmol) and 1-hydroxybenzotriazole (0.03 g, 0.2 mmol) in N,N-dimethylformamide (10 ml) was stirred at ambient temperature for 1 hr. 2-chloro-6-methylbenzohydrazide (0.03 g, 0.2 mmol) was added and the mixture stirred for 12 hrs at ambient temperature. Concentration and trituration of the residue with water produced a solid which was filtered, washed with water and dried in vacuo. Leaching the product with methanol and drying in vacuo gave N′-(2-Chloro-6-methylbenzoyl)-6-[2-(3-quinolyl)ethynyl]pyridine-2-carboxylic acid hydrazide as a white solid.

reactant | 6-[(quinolin-3-yl)ethynyl]pyridine-2-carboxylic acid | 0.2 mmol, 0.05 g | N1=CC(=CC2=CC=CC=C12)C#CC1=CC=CC(=N1)C(=O)O | C17H10N2O2
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.2 mmol, 0.04 g | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.2 mmol, 0.03 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 2-chloro-6-methylbenzohydrazide | 0.2 mmol, 0.03 g | ClC1=C(C(=O)NN)C(=CC=C1)C | C8H9ClN2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N′-(2-Chloro-6-methylbenzoyl)-6-[2-(3-quinolyl)ethynyl]pyridine-2-carboxylic acid hydrazide | ClC1=C(C(=O)NNC(=O)C2=NC(=CC=C2)C#CC=2C=NC3=CC=CC=C3C2)C(=CC=C1)C | C25H17ClN4O2
